US07759337B2
To a mixture of (R)-2-((R)-2-hydroxypropylamino)propan-1-ol (11 g, 83 mmol) in 200 mL dichloromethane stirred at 0° C. was added a sat. solution of sodium bicarbonate (8.3 g, 99 mmol), then added dropwise benzyl chloroformate (15 g, 91 mmol). The mixture was stirred from 0° C. warming to RT over 4 h. The mixture was extracted with dichloromethane (3×100 mL). The combined organics were washed with brine, dried over anhydrous Na2SO4, concentrated in vacuo and purified by column eluting with 20-70% ethyl acetate in hexane to give the benzyl (R)-1-hydroxypropan-2-yl((R)-2-hydroxypropyl)carbamate as a colorless oil.

reactant | (R)-2-((R)-2-hydroxypropylamino)propan-1-ol | 83 mmol, 11 g | O[C@@H](CN[C@@H](CO)C)C | C6H15NO2
reactant | sodium bicarbonate | 99 mmol, 8.3 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 91 mmol, 15 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | benzyl (R)-1-hydroxypropan-2-yl((R)-2-hydroxypropyl)carbamate | OC[C@@H](C)N(C(OCC1=CC=CC=C1)=O)C[C@@H](C)O | C14H21NO4
